Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ceclor / Grass ___ Blue, Standard / Ragweed
 
Attending: ___
 
Chief Complaint:
hypotension/fall weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo F with HTN, hypothyroid presents s/p fall at home. She 
reported fall occured in the setting of 'weakness'. She 
apparently hit her head and was transferred to ED. Per ED note 
patient was febrile at home (unclear how high).  
In the ED, patient had a CT head that was negative. She also had 
a CXR that showed a LLL opacity, possibly PNA. Patient was given 
a dose of levofloxacin and was being prepared for transfer to 
floor when it was noted that her systolic pressure was in the 
70's. She had a lactate drawn that came back at 2.4. Patient was 
mentating. A central line was placed, she was gicev 2L of IVF 
and a dose of ceftriaxone. Her SBPs increased only to the 80's, 
therefore levophed was started. repeat lactate was down to 0.9.  

Last set of vitals per ED resident BP 83/47, HR 70, O2 sat 96% 
on 2L/RA (NC comes off). Patient mentating well, has foley in 
place with good UOP.  
Admitted to ICU for further management. 
.. 
___ y.o. W with HTN, hypothyroid who initially presented to the 
ED s/p fall at home in the setting of 'weakness' and fever. In 
the ED patient had negative head CT, was found to have a PNA, 
and was admitted to the ICU for hypotension to the 70's and 
lactate of 2.4.  
Now improved, on multiple antibiotics for influenza pna with 
suspected bacterial superinfection.  

 
Past Medical History:
Hypertension  
Asthma  
Hypothyroidism.  
Bilateral total knee replacements  
left thumb CMC joint arthritis  

 
Social History:
___
Family History:
non contributory vis a vis current issues
 
Physical Exam:
VS: 99.4 148/90 96 24 94% on 3 L by face mask  
GEN: NAD  
HEENT: AT, NC, no conjuctival injection, anicteric, think 
brownish coating on tongue, MMM, neck supple  
CV: RRR, nl s1, s2, no m/r/g  
PULM: coarse ronchi ___, L > R, fairly good air movement 
throughout  
ABD: soft, obese, NT, ND, + BS  
EXT: warm, dry, +2 distal pulses ___  
NEURO: alert & oriented, CN II-XII grossly intact  
PSYCH: appropriate affect  

 
Pertinent Results:
Admit labs:

___ 01:45AM   WBC-12.9*# RBC-4.26 HGB-13.3 HCT-39.1 MCV-92 
MCH-31.2 MCHC-34.0 RDW-14.4
___ 01:45AM   NEUTS-87.7* LYMPHS-7.5* MONOS-4.5 EOS-0.2 
BASOS-0.1
___ 01:45AM   PLT COUNT-185
___ 01:45AM   GLUCOSE-119* UREA N-25* CREAT-1.3* SODIUM-138 
POTASSIUM-4.2 CHLORIDE-100 TOTAL CO2-26 ANION GAP-16
___ 01:45AM   LD(LDH)-267*
CHEST (PA & LAT)

Reason: r/o PNA 

UNDERLYING MEDICAL CONDITION:
___ year old woman with fevers and cough 
REASON FOR THIS EXAMINATION:
r/o PNA 
INDICATION: ___ female with fevers and cough. Rule out 
pneumonia.

COMPARISON: ___.

PA AND LATERAL VIEWS OF THE CHEST: The heart size is normal. 
Mediastinal and hilar contours are unchanged and unremarkable. 
Aortic arch calcifications are noted. Within the left lung base 
in the anterior left lower lobe, there is opacity, which could 
represent pneumonia. Given its somewhat linear appearance, 
atelectasis is an alternative etiology. The overlying soft 
tissue obscures detailed evaluation of this region.

There are no pleural effusions and there is no pneumothorax.

IMPRESSION: Left lower lobe opacity, probably representing 
pneumonia. However, given linear configuration, atelectasis is 
an alternative explanation.
CT HEAD W/O CONTRAST

Reason: S/P FALL

UNDERLYING MEDICAL CONDITION:
___ year old woman s/p fall. + hit head. no loc 
REASON FOR THIS EXAMINATION:
r/o bleed 
CONTRAINDICATIONS for IV CONTRAST: None.

INDICATION: ___ female status post fall. Rule out bleed.

No comparison studies.

TECHNIQUE: Non-contrast CT of the head.

FINDINGS: There is no intracranial hemorrhage, mass effect, or 
shift of normally midline structures. Gray-white matter 
differentiation is preserved. The ventricles are prominent, 
likely due to central atrophy. There is moderate diffuse white 
matter hypodensity most likely representing chronic 
microvascular disease. There is no evidence of acute major 
vascular territorial infarction.

The visualized paranasal sinuses demonstrate moderate ethmoid 
sinus mucosal thickening and mild bilateral right greater than 
left maxillary sinus mucosal thickening. There is no evidence of 
fracture. The surrounding soft tissue structures are 
unremarkable. Cataract surgical changes of the globes are seen 
bilaterally.

IMPRESSION: No acute intracranial abnormalities. Extensive 
microangiopathic changes and central atrophy
============================================================
CHEST (PA & LAT)  ___ 10:16 AM

CHEST (PA & LAT)

Reason: ? interval change 

UNDERLYING MEDICAL CONDITION:
___ year old woman with asthma, pneumonia, flu 
REASON FOR THIS EXAMINATION:
? interval change 
FRONTAL AND LATERAL CHEST RADIOGRAPH

INDICATION: Asthma, pneumonia, flu. Evaluate interval change.

COMPARISON: ___.

FINDINGS:
There is an air-fluid level at the lower mediastinum compatible 
with a hiatal hernia. There is no significant pulmonary 
consolidation. There is some minimal left basilar atelectasis. 
Note is made of a left shoulder hemiarthroplasty. There is 
thoracic spinal degenerative discogenic disease.

IMPRESSION: Basilar atelectasis. Hiatal hernia.
=====================================================
ECG:
Sinus rhythm 
Borderline first degree A-V delay 
Left atrial abnormality 
Modest nonspecific ST-T wave changes 
Since previous tracing of ___, probably no significant 
change 
Discharge labs:

  

 
Brief Hospital Course:
Patient admitted to ICU on ___. In ICU patient patient requiring 
___ oxygen, started on levaquin for pneumonia, given 
aggressive fluids for hypotension likely from 
dehydration/infection.  Levaquin changed to vancomycin and 
aztreonam on ___ with continued fever spikes and continued 
significant oxygen requirment.
Patient started on prednisone taper, nebulizers.  Slowly 
improved with stabilization of pulm status, hemodynamics, oxygen 
to 3l requirement and bp's improved from 70's to 100's by 
transfer to floor on ___.

On the floor from ___ on.  Completed 8day course of vancomycin 
and aztreonam for possible hospital acquired pneumonia.  
Maintained on prednisone, nebs, humidified O2, chest ___. 

Despite aggressive Rx for above issues, patient still appeared 
very dyspneic and hence CTA chest was done that revealed 
bilateral PE's. In further w/u, pt was also found to have 
bilateral DVT's. Started on IV heparin and coumadin to target 
INR ___. 

Patient is advised to have age appropriate ca screening. She has 
never had a colonoscopy and mammogram was ___ years back. Given 
new VTE, should have testing for hidden / occult malignancy. 

ECHO showed Diastolic CHF, chronic - stable. On ASA, statin, 
lisinopril, metoprolol.

Incidental finding of pulmonary nodules see on CT chest - needs 
follow up. (pt informed). CT abd/pelvis as part of malignancy 
w/u with non specific LAD.  Radiology recommends repeat CT torso 
in approx 6 weeks ___ to d/w PCP regarding ___ 
___ CT's. 

Hypothyroidism - is on levothyroxine. TSH significantly elevated 
and FT4 is low. Increased dose of levothyroxine to 125 
microgram/day. Recheck in ___ weeks recommended. 

Hypertension - HCTZ, lisinopril, metoprolol continued after 
hypotension resolved. 

Hyperlipidemia - on statin

Depression - on zoloft. Mood stable.

Dispo - eventually home with ___ after clinical improvement.
 
Medications on Admission:
(per OMR):  
Levothyroxine [Synthroid] 112 mcg 1 Tablet(s) by mouth once a 
day  
Lisinopril-Hydrochlorothiazide  
20 mg-12.5 mg Tablet by mouth once a day  
Metoprolol Succinate [Toprol XL]  
Sertraline 50 mg Tablet 1 Tablet(s) by mouth QD (once a day)  
Simvastatin [Zocor]  
Ascorbic Acid [Vitamin C]  
Aspirin [Ecotrin] 325 mg Tablet  
Calcium-Cholecalciferol (D3) [Os-Cal 500 + D]  
Ferrous Sulfate  
Multivitamin with Iron-Mineral [Centrum]  
Omeprazole 20 mg Capsule  
Vitamin E 
..
..
Heparin 5000 UNIT SC Q8H  
Acetaminophen ___ mg PO Q6H:PRN  
Heparin Flush CVL (100 units/ml) 1 ml IV DAILY:PRN  
Albuterol ___ PUFF IH Q4H SOB  
Albuterol 0.083% Neb Soln 1 NEB IH Q6H  
Ipratropium Bromide Neb 1 NEB IH Q6H  
Aspirin EC 325 mg PO DAILY  
Levothyroxine Sodium 112 mcg PO DAILY  
Aztreonam 1000 mg IV Q8H  
Multivitamins 1 CAP PO DAILY  
Benzonatate 100 mg PO TID  
Pantoprazole 40 mg PO Q24H  
Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
PredniSONE 40 mg PO DAILY Duration: 5 Doses  
Captopril 6.25 mg PO TID  
Sertraline 50 mg PO DAILY  
Docusate Sodium 100 mg PO BID  
Simvastatin 40 mg PO DAILY  
Guaifenesin ___ mL PO Q6H  
Vancomycin 1000 mg IV Q 12H  
Heparin Flush CVL (100 units/ml) 1 ml IV DAILY:PRN  
10ml NS followed by 1ml of 100 units/ml heparin (100 units 
heparin) each lumen QD and PRN. Inspect site every shift  
 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
1. Acute Respiratory Failure
2. Influenza
3. Bacterial pneumonia
4. Asthma with acute exacerbation
5. Pulmonary embolism and deep vein thrombosis, legs
6. Hypotension
7. Pulmonary nodules
Secondary:
1 Hypertension
2. Hypothryoidism
3. Hyperlipidemia
4. Depression.

 
Discharge Condition:
Stable, afebrile, satting mid 90's on room air, ambulating, good 
PO intake.

 
Discharge Instructions:
Follow up as below.

All medications as prescribed.
You will be given enough prednisone to take one pill a day until 
___, when you see Dr. ___.  If Dr. ___ is 
concerned about your breathing, he might ask that you continue 
prednisone, and will need to give you a prescription for that. 
Use your inhalers as directed. New inhalers have been added. 
Take vitamin D and calcium.

If you have fevers, chills, worsening shortness of breath, chest 
pain or any other new concerning symptoms, contact your doctor.

Since you were diagnosed with clots in your legs and lungs, you 
will take blood thinners for at least 6 months. It is important 
to have your blood tests closely monitored during this time. 

You are advised to discuss with your doctor about the following 
issues: 
- you have some spots seen on the lung scan and in the abdomen 
as we discussed. You will need to have a CT scan of the chest 
and abdomen repeated in about 3 months. 
- Discuss with your doctor about scheduling a mammogram, pap 
smear and colonoscopy. 
 
Followup Instructions:
___